US09145392B2
4-Amino-6-{4-[4-(4-fluoro-3-methyl-phenyl)-1-(2-methylamino-ethyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile (“394”)
The title compound was prepared in an analogous manner as 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile using methylamine instead of cyclopropylmethylamine. LC-MS: (M+1=435, obsd.=435).

reactant | 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCNCC1CC1 | C26H31FN8
reactant | methylamine | CN | CH5N
product | 4-Amino-6-{4-[4-(4-fluoro-3-methyl-phenyl)-1-(2-methylamino-ethyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCNC | C23H27FN8
